US07875618B2
2-(2-Ethyl-4-methyl-imidazolyl)-4-piperidin-yl-nitrobenzene
5 g 2-(2-Ethyl-4-methyl-imidazolyl)-4-fluoro-nitrobenzene and 10 g piperidine were heated 30 minutes at 100° C. After cooling 150 ml ethylacetate were added. The solution was extracted three times with 50 ml water. The organic layer was evaporated to dryness. The residue is purified by chromatography (silica gel, dichloromethane/methanol=95/5).

reactant | 2-(2-Ethyl-4-methyl-imidazolyl)-4-fluoro-nitrobenzene | 5 g | C(C)C=1NC(=C(N1)C)C1=C(C=CC(=C1)F)[N+](=O)[O-] | C12H12FN3O2
reactant | piperidine | 10 g | N1CCCCC1 | C5H11N
solvent | ethylacetate | 150 ml | C(C)OC(C)=O | C4H8O2
product | 2-(2-Ethyl-4-methyl-imidazolyl)-4-piperidin-yl-nitrobenzene | C(C)C=1NC(=C(N1)C)C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-] | C17H22N4O2
